US04482553
Oxalyl chloride (0.72 ml, 8 mM) were reacted with 530 mg (2 mM) of α-methoxyimino-α-(3-methoxy-2-benzothienyl)acetic acid according to the method of Example 6 to give α-methoxyimino-α-(3-methoxy-2-benzothienyl)acetyl chloride. The acid chloride was dissolved in 20 ml of acetone and added dropwise to a cold (0° C.) stirred solution of 428 mg (2 mM) of 7-amino-3-methyl-3-cephem-4-carboxylic acid in 20 ml of acetone and 20 ml of water containing 420 mg (5 mM) of sodium bicarbonate. The reaction mixture was stirred for thirty minutes at 0° C. and then was warmed to 25° C. and stirred for an additional three hours. The reaction mixture was concentrated to a volume of about 20 ml and then was washed with ethyl acetate. The aqueous layer was layered with fresh ethyl acetate and the slurry was diluted with 1N hydrochloric acid to pH 2.4. The organic layer was separated, washed with water, dried, and the solvent was removed by evaporation to give 670 mg (72% yield) of 7-[α-methoxyimino-α-(3-methoxy-2-benzothienyl)acetamido]-3-methyl-3-cephem-4-carboxylic acid.

reactant | Oxalyl chloride | 8 mM, 0.72 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | α-methoxyimino-α-(3-methoxy-2-benzothienyl)acetic acid | 2 mM, 530 mg | CON=C(C(=O)O)C=1SC2=C(C1OC)C=CC=C2 | C12H11NO4S
product | α-methoxyimino-α-(3-methoxy-2-benzothienyl)acetyl chloride | CON=C(C(=O)Cl)C=1SC2=C(C1OC)C=CC=C2 | C12H10ClNO3S
